US07482340B2
6-(2-Phenylchroman-6-yloxy) nicotinic acid methyl ester was prepared as described for 5-Chloro-2-(2-phenylchroman-6-yloxy)pyridine in Example 61, but replacing 2,5-dichloropyridine with 6-chloronicotinic acid methyl ester. 1H NMR (400 MHz, CDCl3) δ: 8.70 (d, 1H, J 2.4 Hz), 8.29 (dd, 1H, J 8.6, 2.4 Hz), 7.47-7.32 (m, 5H), 7.07 (d, 1H, J 8.6 Hz), 6.96-6.88 (m, 3H), 5.14 (d, 1H, J 10.0 Hz), 3.85 (s, 3H), 2.97 (m, 1H), 2.74 (m, 1H), 2.18 (m, 1H), 2.01 (m, 1H).

reactant | 5-Chloro-2-(2-phenylchroman-6-yloxy)pyridine | ClC=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16ClNO2
reactant | 6-chloronicotinic acid methyl ester | COC(C1=CN=C(C=C1)Cl)=O | C7H6ClNO2
product | 6-(2-Phenylchroman-6-yloxy) nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1)=O | C22H19NO4
